* Z:\home\fabio\Laboratorio_3\Esperienza_03\Circuiti\Circ_6.asc
C2 0 V- 0.1µ
V1 0 V- +12
V2 V+ 0 +12
C1 V+ 0 0.1µ
XU2 N004 N005 V+ V- N005 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Csh1 N004 N003 97p
Rsh1 N004 0 147.99k
Rsh2 N007 N005 148.02k
Csh2 N007 0 100p
XU1 0 N002 V+ V- N003 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Rf_pre N003 N002 681.08k
Cf_pre N003 N002 218p
Rin N002 N006 55.306k
V3 N006 0 AC 1
Rpz N004 N003 1500k
XU4 N007 OUT_sh V+ V- OUT_sh level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R2a OUT N008 148.93k
R1a N008 0 9.82k
R1b N009 OUT_sh 9.831k
R3b N009 0 9.96k
R2b N009 V- 917.5k
XU3 N009 N008 V+ V- OUT level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
XU5 OUT_sh N001 V+ V- OUT2 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
R1 OUT2 N001 10k
R2 N001 0 1k
;tran 100u
.ac dec 100u 32 2000000
.lib UniversalOpamp.lib
.backanno
.end
